US06093729
b) Methyl Isoquinoline-6-carboxylate
290 mg of isoquinoline-6-carbaldehyde are dissolved in 40 ml of MeON, and firstly 450 mg of NaCN, then 210 μl of glacial acetic acid, and finally 3.5 g of MnO2 are added. The mixture is stirred at RT for 3 days, and the precipitate is filtered off and the filtrate is poured into a solution of 15 g of FeSO4 in 150 ml of water. Subsequently, the pH of the mixture is adjusted to 9 with Na2CO3 solution, the precipitate is filtered off, and the filtrate is extracted 3× with 150 ml of EA. Drying takes place over Na2SO4, and the solvent is removed in vacuo. 190 mg are obtained of a colorless oil, which in reacted without any further purification.

reactant | isoquinoline-6-carbaldehyde | 290 mg | C1=NC=CC2=CC(=CC=C12)C=O | C10H7NO
reactant | acetic acid | 210 μl | C(C)(=O)O | C2H4O2
solvent | NaCN | 450 mg | [C-]#N.[Na+]
catalyst | MnO2 | 3.5 g | O=[Mn]=O
product | Methyl Isoquinoline-6-carboxylate | C1=NC=CC2=CC(=CC=C12)C(=O)OC | C11H9NO2
